US06051712
In an analogous manner to that described in Example 22(i), by alkylating tert-butyl (3RS,4RS)-4-(4-benzyloxy-phenyl)-3-hydroxy-piperidine-1-carboxylate with 2-bromomethylnaphthalene there was obtained tert-butyl (3RS,4RS)-4-(4-benzyloxy-phenyl)-3-(naphthalen-2-yloxy)-piperidine-1-carboxylate as a colourless, amorphous solid; MS: 523 (M)+.

reactant | tert-butyl (3RS,4RS)-4-(4-benzyloxy-phenyl)-3-hydroxy-piperidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C23H29NO4
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-4-(4-benzyloxy-phenyl)-3-(naphthalen-2-yloxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OC1=CC2=CC=CC=C2C=C1 | C33H35NO4
